US05162326
1-(2'-Cyanobiphenyl-4-yl)methyl-6-phenylthio-3-propylpyrimidine-2,4(1H,3H)-dione
A mixture of 6-chloro-1-(2'-cyanobiphenyl-4-yl)methyl-3-propylpyrimidine-2,4(1H,3H)-dione (1 g), thiophenol (0.33 ml) and potassium carbonate (0.44 g) in acetonitrile (20 ml) was heated under reflux for 5 hours. The reaction mixture was allowed to cool and the precipitate was removed by filtration.

reactant | 6-chloro-1-(2'-cyanobiphenyl-4-yl)methyl-3-propylpyrimidine-2,4(1H,3H)-dione | 1 g | ClC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)CCC)=O | C21H18ClN3O2
reactant | thiophenol | 0.33 ml | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 0.44 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-(2'-Cyanobiphenyl-4-yl)methyl-6-phenylthio-3-propylpyrimidine-2,4(1H,3H)-dione | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(N(C(C=C1SC1=CC=CC=C1)=O)CCC)=O | C27H23N3O2S
